US04507498
To a solution of 0.400 g (0.00069 mol) of [4-acetyl-3-[2-[2-(4-acetyl-6-chloro-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]-2-propylphenoxy]acetic acid ethyl ester in 15 ml of methanol was added 15 ml of 1N sodium hydroxide (0.015 mol). The mixture was stirred at 25° for 5 hours and the methanol was removed in vacuo. The aqueous solution was acidified to pH 4, the gummy precipitate was dissolved in ethyl acetate and washed with sodium chloride solution. The oil obtained on concentration of the ethyl acetate was crystallized from cyclohexane to give 0.32 g, melting point 89°-91° (84% yield) of [4-acetyl-3-[2-[2-(4-acetyl-6-chloro-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]-2-propylphenoxy]acetic acid.

reactant | [4-acetyl-3-[2-[2-(4-acetyl-6-chloro-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]-2-propylphenoxy]acetic acid ethyl ester | 0.00069 mol, 0.400 g | C(C)OC(COC1=C(C(=C(C=C1)C(C)=O)OCCOCCOC1=C(C(=C(C=C1Cl)C(C)=O)O)CCC)CCC)=O | C30H39ClO9
reactant | sodium hydroxide | 0.015 mol, 1N, 15 ml | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | [4-acetyl-3-[2-[2-(4-acetyl-6-chloro-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]-2-propylphenoxy]acetic acid | 0.32 g, 84% yield | C(C)(=O)C1=C(C(=C(OCC(=O)O)C=C1)CCC)OCCOCCOC1=C(C(=C(C=C1Cl)C(C)=O)O)CCC | C28H35ClO9
